US05874430
A stirred solution of 22.6 g (100 mmol) of stannous chloride dihydrate in 40 mL of absolute ethanol was heated to reflux and treated with 3.75 g (20 mmol) of 5-chloro-2-nitroanisole in 20 mL of 1:1 ethanol-tetrahydrofuran over 3 min. Stirring at reflux for an additional 10 minutes gave a clear solution which was then cooled to 0° C. The mixture was treated with aqueous Na2CO3 until a pH of 8-9 was reached. The colloidal suspension was extracted twice with ethyl acetate, and the combined organic extracts were washed with saturated NaHCO3 then brine. The solution was dried (MgSO4) and concentrated under reduced pressure. The crude oil was dissolved in 40 mL of CH2Cl2 and cooled to 0° C. The solution was treated with 4.2 mL (30 mmol) of triethylamine followed by 2.8 mL (23 mmol) of pivaloyl chloride. After stirring 2 h at 0° C. the mixture was quenched with 0.5N HCl, and the phases were separated. The aqueous phase was extracted with 100 mL of 1:1 ether-hexanes, and the combined organic extracts were washed sequentially with 0.1N HCl, dilute K2CO3, water, and brine. The solution was dried (MgSO4) and concentrated under reduced pressure to give 4.68 g (97%) of 4'-chloro-2'-methoxy-2,2-dimethylpropionanilide as an tan solid, mp 66°-69° C. 1H NMR (300 MHz, CDCl3) δ8.36(d, 1H, J=8.8 Hz); 8.03(br. s, 1H); 6.94(dd, 1H, J=8.8, 2.2 Hz); 6.86(d, 1H, J=2.2 Hz); 3.90(s, 3H); 1.32(s, 9H). High resolution mass spec: calculated for C12H17NO2Cl(M+H)+ : 242.0948, found: 242.0943. Analysis calculated for C12H16NO2Cl: C, 59.63; H, 6.67; N, 5.79; Cl, 14.67. Found: C, 59.73; H, 6.67; N, 5.57; Cl, 14.42.

reactant | 5-chloro-2-nitroanisole | 20 mmol, 3.75 g | ClC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 23 mmol, 2.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol tetrahydrofuran | 20 mL | C(C)O.O1CCCC1
product | 4'-chloro-2'-methoxy-2,2-dimethylpropionanilide | 4.68 g, 97% | ClC1=CC(=C(NC(C(C)(C)C)=O)C=C1)OC | C12H16ClNO2
